US07291632B2
Preparation 9. (3-(1-Methylpiperidin-4-ylamino)phenyl)carbamic acid tert-butyl ester
Combine (3-aminophenyl)carbamic acid tert-butyl ester (0.156 g, 0.756 mmol), 1-methylpiperidin-4-one (0.093 mL, 0.756 mmol), sodium triacetoxyborohydride (208 mg, 0.982 mmol), acetic acid (0.043 mL, 0.756 mmol) and dichloromethane (8 mL). Stir at room temperature overnight. Dilute with dichloromethane (5 mL) and wash twice with sodium hydroxide (10 mL 1N aq.). Combine the organic layers and wash with saturated aqueous NaCl (10 mL). Dry over magnesium sulfate, filter under reduced pressure and concentrate to dryness. Purify by flash chromatography on a Biotage® silica cartridge eluting with a 20/1 mixture of dichloromethane and 2N ammonia in methanol to give the free base of the title compound. Dissolve the residue in diethyl ether and treat with ethereal hydrogen chloride. Triturate the resulting gum with ether to give the title compound as a white solid: mp 124–5° C.; mass spectrum (ion spray): m/z =306.2 (M+1), 1H NMR (CDCl3): 7.06 (t, J=8.0 Hz, 1H), 6.86 (bs, 1H), 6.51–6.48 (m, 1H), 6.42 (bs, 1H), 6.30–6.27 (m, 1H), 3.60 (bs, 1H), 3.30 (bs, 1H), 2.80 (bd, J=11.8 Hz, 2H), 2.31 (s, 3H), 2.19–2.02 (m, 4H), 1.89 (bs, 2H), 1.52 (s, 9H).

reactant | (3-aminophenyl)carbamic acid tert-butyl ester | 0.756 mmol, 0.156 g | C(C)(C)(C)OC(NC1=CC(=CC=C1)N)=O | C11H16N2O2
reactant | 1-methylpiperidin-4-one | 0.756 mmol, 0.093 mL | CN1CCC(CC1)=O | C6H11NO
reactant | sodium triacetoxyborohydride | 0.982 mmol, 208 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.756 mmol, 0.043 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | (3-(1-Methylpiperidin-4-ylamino)phenyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC(=CC=C1)NC1CCN(CC1)C)=O | C17H27N3O2
